US07842324B2
2-(2-fluorobiphenyl-4-yl)-N-(furan-2-ylmethyl)propanamide
Prepared in a similar manner to Example 3 from 2-(2-fluorobiphenyl-4-yl)propanoic acid and furan-2-ylmethanamine. Yield: 75%. 1H NMR (500 MHz, CDCl3): δ 1.55-1.56 (d, 3H), 3.56-3.58 (m, 1H), 4.35-4.40 (dd, 1H, J1=5.3 Hz, J2=15.5 Hz), 4.45-4.49 (dd, 1H, J1=5.7 Hz, J2=15.6 Hz), 5.72 (s br, 1H), 6.16 (d, 1H, J=2.7 Hz), 6.39 (m, 1H), 7.10-7.15 (m, 2H), 7.25-7.45 (m, 5H), 7.54 (m, 2H).

reactant | 2-(2-fluorobiphenyl-4-yl)propanoic acid | FC1=C(C=CC(=C1)C(C(=O)O)C)C1=CC=CC=C1 | C15H13FO2
reactant | furan-2-ylmethanamine | O1C(=CC=C1)CN | C5H7NO
product | 2-(2-fluorobiphenyl-4-yl)-N-(furan-2-ylmethyl)propanamide | Yield: 75% | FC1=C(C=CC(=C1)C(C(=O)NCC=1OC=CC1)C)C1=CC=CC=C1 | C20H18FNO2
